US07091247B2
2) 3′-Formyl-N-[2-(1-pyrrolidinyl)ethyl][1,1′-biphenyl]-3-carboxamide
Palladium tetrakistriphenyl phosphine (735 mg) and 2 M aqueous sodium carbonate (21.2 ml) were added to a solution of 3-bromo-N-[2-(1-pyrrolidinyl)ethyl]phenylcarboxamide (6.31 g) in toluene (50 ml), and then a solution of 3-formylphenylboric acid (3.49 g) in ethanol (15 ml) was added thereto, and the mixture was stirred at 90° C. for 15 hours. The reaction solution was diluted with water and then extracted with diethyl ether. The extract was washed with brine and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, whereby the title compound (6.83 g) was obtained.

reactant | sodium carbonate | 2 M, 21.2 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-bromo-N-[2-(1-pyrrolidinyl)ethyl]phenylcarboxamide | 6.31 g | BrC=1C=C(C=CC1)C(=O)NCCN1CCCC1 | C13H17BrN2O
reactant | 3-formylphenylboric acid | 3.49 g | C(=O)C=1C=C(C=CC1)OB(O)O | C7H7BO4
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3′-Formyl-N-[2-(1-pyrrolidinyl)ethyl][1,1′-biphenyl]-3-carboxamide | C(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)NCCN1CCCC1 | C20H22N2O2
